US04496560
A solution of bromine (35.96 g) in dry methylene chloride (40 cc) is added dropwise to a solution, cooled to -75° C., of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylamino-vinyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene, E-form, (107.1 g) in dry tetrahydrofuran (600 cc). The mixture is stirred at this temperature for 10 minutes and pyrid-3-yl-thiourea (30.64 g) dissolved in a mixture (400 cc) of water and tetrahydrofuran (50:50 by volume) is then added. The cooling bath is removed and the mixture is stirred at 20° C. for 17 hours. The brown solution is diluted with ethyl acetate (1.5 liters) and is then washed successively with distilled water (1 liter), a half-saturated sodium bicarbonate solution (1 liter), distilled water (1 liter) and a saturated sodium chloride solution (500 cc). The organic phase is dried over anhydrous magnesium sulphate. After evaporation of the solvent under reduced pressure (30 mm Hg; 4 kPa) at 30° C., the residue is chromatographed on a column (height: 46 cm, diameter: 8.1 cm) of silica gel (0.06-0.20 mm), elution being carried out successively with a mixture (5 liters) of cyclohexane and ethyl acetate (50:50 by volume), a mixture (5 liters) of cyclohexane and ethyl acetate (25:75 by volume) and ethyl acetate (7 liters), 1 liter fractions being collected. Fractions 8 to 17, containing the pure product, are combined and concentrated to a residual volume of 250 cc. A yellow suspension is obtained, which is kept at 5° C. for 12 hours. The solid is filtered off, washed with ethyl ether (3×100 cc) and dried under reduced pressure (1 mm Hg; 0.13 kPa). 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-[2-(pyrid-3-yl-amino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (14.5 g) is thus obtained in the form of a yellow powder.

reactant | bromine | 35.96 g | BrBr | Br2
reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-dimethylamino-vinyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=CN(C)C)NC(=O)OC(C)(C)C)=O | C29H33N3O5S
reactant | pyrid-3-yl-thiourea | 30.64 g | N1=CC(=CC=C1)NC(=S)N | C6H7N3S
solvent | methylene chloride | 40 cc | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 600 cc | O1CCCC1 | C4H8O
solvent | water | 400 cc | O | H2O
product | 2-Benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-[2-(pyrid-3-yl-amino)-thiazol-5-yl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 14.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC=1C=NC=CC1)NC(=O)OC(C)(C)C)=O | C33H31N5O5S2
